US07186714B2
To a solution of N′-[3-[(2E)-3-(dimethylamino)-2-propenoyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide (130 mg, 0.34 mmol) in N,N-dimethylformamide was added N-cyclopentylguanidine hydrochloride (168 mg, 1.02 mmol), followed by anhydrous potassium carbonate (140 mg, 1.02 mmol). The resulting solution was heated at 100° C. for 16 hours. Upon cooling to room temperature, ethyl acetate and water were added. The phases were separated and the organics were washed with brine. The aqueous layer was extracted with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate) to give N′-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide (80 mg, 53%) as a solid. 1H NMR (CDCl3): δ 9.09 (broad s, 1H), 8.60 (s, 1H), 8.04 (d, 1H), 7.63 (q, 2H), 7.04 (t, 2H), 6.78 (m, 2H), 6.36 (d, 1H), 5.14 (d, 1H), 4.31 (m, 1H), 3.10 (s, 3H), 3.05 (s, 3H), 2.0–2.1 (m, 2H), 1.4–1.9 (m, 6H); MS m/z 444 (M+1).

reactant | N′-[3-[(2E)-3-(dimethylamino)-2-propenoyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide | 0.34 mmol, 130 mg | CN(/C=C/C(=O)C1=C(N=C2N1C=CC=C2N=CN(C)C)C2=CC=C(C=C2)F)C | C21H22FN5O
reactant | N-cyclopentylguanidine hydrochloride | 1.02 mmol, 168 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 1.02 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N′-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide | 80 mg, 53% | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2N=CN(C)C)C2=CC=C(C=C2)F | C25H26FN7
